US06358980B1
1-(2-Butynyl)-4-[[[4-(2-butynyloxy)phenyl]sulfonyl]methyl]-4-piperidinecarboxylic acid, ethyl ester
A mixture of 4-[[[4-(2-Butynyloxy)phenyl]sulfonyl]methyl]-4-piperidinecarboxylic acid ethyl ester (0.208 g,0.5 mmol), 1-bromo-2-butyne (0.044 ml, 0.53 mmol) and K2CO3 (0.138 g, 1.0 mmol)in 5.0 mL of DMF was stirred at room temperature for 6 h. The reaction was diluted with EtOAc and washed with H2O, brine, dried over MgSO4, filtered, and concentrated in vacuo. The residue was chromatographed on silica gel eluting with EtOAc:hexanes (1:1) to provide 0.183 g (85%) of the desired product as a pale yellow gum. Electrospray Mass Spec: 432.2 (M+H)+

reactant | 4-[[[4-(2-Butynyloxy)phenyl]sulfonyl]methyl]-4-piperidinecarboxylic acid ethyl ester | 0.5 mmol, 0.208 g | C(C)OC(=O)C1(CCNCC1)CS(=O)(=O)C1=CC=C(C=C1)OCC#CC | C19H25NO5S
reactant | 1-bromo-2-butyne | 0.53 mmol, 0.044 ml | BrCC#CC | C4H5Br
reactant | K2CO3 | 1.0 mmol, 0.138 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 5.0 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-(2-Butynyl)-4-[[[4-(2-butynyloxy)phenyl]sulfonyl]methyl]-4-piperidinecarboxylic acid, ethyl ester | 0.183 g, 85% | C(C#CC)N1CCC(CC1)(C(=O)OCC)CS(=O)(=O)C1=CC=C(C=C1)OCC#CC | C23H29NO5S
